US07259266B2
6-Chloro-5-ethyl-2-(trifluoromethyl)-2H-chromene-3-carboxylic acid
To the mixture of ethyl 6-chloro-5-iodo-2-(trifluoromethyl)-2H-chromene-3-carboxylate (0.3g, 0.7 mmol), potassium carbonate(109 mg, 2.87 mmol) and tetrakistriphenyl-palladium (0) (81 mg, 0.07 mmol) in 3 mL of anhydrous DMF was added triethylboron (1.0M/THF, 1.05 mL, 1.05 mmol) under nitrogen. The resulting mixture was heated to 110° C. for five hrs. The reaction was cooled to room temperature, and diluted with 100 mL of ethyl acetate. The resulting organic phase was washed with brine. After removing the solvent, the residue was dissolved in 3 mL of THF, followed by addition of a solution of lithium hydroxide hydrate in 3 mL of water. To the resulting mixture was further added 3 mL of ethanol. The resulting solution was then heated to 80° C. for three hrs. The volatiles were then removed. The residue was diluted with water, and acidified in an ice/water bath with dilute hydrochloric acid. The product was extracted with ethyl acetate. The organic extracts were washed with brine, and dried over anhydrous magnesium sulfate. After removing the solvent, the residue was purified on short silica gel with 3:7 EtOAc/hexane+1% HOAc to remove the polar impurities. After concentrating the collected fraction, the residue was further purified on reverse phase HPLC. It gave 75 mg slightly yellow solid. M.P.=171.5-172.5° C. 1H NMR (CDCl3/400 Mz), 8.07(s, 1H), 7.32(d, J=8.8 Hz, 1H), 6.82(d, J=8.8 Hz, 1H), 5.65(q, J=6.8 Hz, 1H), 2.91(m, 2H), 1.18(t, J=7.6 Hz, 3H). 13C NMR(CDCl3/400 MHz) 169.5, 152.8, 141.5, 136.5, 134.1, 127.7, 123.4(q, J=287.7 Hz), 118.6, 116.3, 115.5, 69.8(q, J=33.4 Hz), 23.1, 14.7. 19F NMR(CDCl3/400 Mz) −78.72(d, J=6.8 Hz). MS(ES−)=305.0 (M−H, 100). High resolution MS(ES−), m/e calc. For C13H10ClF3O3: 305.0198 (M−H), found: 305.0157.

reactant | ethyl 6-chloro-5-iodo-2-(trifluoromethyl)-2H-chromene-3-carboxylate | 0.7 mmol, 0.3g | ClC=1C(=C2C=C(C(OC2=CC1)C(F)(F)F)C(=O)OCC)I | C13H9ClF3IO3
reactant | potassium carbonate | 2.87 mmol, 109 mg | C([O-])([O-])=O.[K+].[K+]
reactant | triethylboron | 1.05 mmol, 1.0M, 1.05 mL | C(C)B(CC)CC | C6H15B
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
product | 6-Chloro-5-ethyl-2-(trifluoromethyl)-2H-chromene-3-carboxylic acid | ClC=1C(=C2C=C(C(OC2=CC1)C(F)(F)F)C(=O)O)CC | C13H10ClF3O3
